US08669234B2
A mixture of 2-[5-(7-Bromo-9,9-difluoro-9H-fluoren-2-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester (137 mg, 0.265 mmol), 2-[6-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-benzoimidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester (1 eq., 110 mg), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (5%, 11 mg), tetrakis(triphenylphosphine)palladium (5%, 16 mg) and potassium carbonate (2 eq., 73 mg) in 4 mL DME and 2 mL water was heated to 90° C. for 2 hours. The reaction mixture was cooled and dissolved in ethyl acetate and washed with saturated sodium bicarbonate solution. The organic layer dried (MgSO4), concentrated and purified by flash column chromatography (silica gel, 20 to 100% ethyl acetate/hexane) to give 2-(5-{9,9-Difluoro-7-[2-(1-Boc-pyrrolidin-2-yl)-3H-benzoimidazol-5-yl]-9H-fluoren-2-yl}-1H-imidazol-2-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester (83 mg, yield 43%). LCMS-ESI−: calc'd for C41H44F2N6O4: 722.82. Found: 723.1 (M+H+).

reactant | 2-[5-(7-Bromo-9,9-difluoro-9H-fluoren-2-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.265 mmol, 137 mg | C(C)(C)(C)OC(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=2C(C3=CC(=CC=C3C2C=C1)Br)(F)F | C25H24BrF2N3O2
reactant | 2-[6-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-benzoimidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 110 mg, 1 eq. | C(C)(C)(C)OC(=O)N1C(CCC1)C1=NC2=C(N1)C=C(C=C2)B2OC(C(O2)(C)C)(C)C | C22H32BN3O4
reactant | potassium carbonate | 73 mg, 2 eq. | C([O-])([O-])=O.[K+].[K+]
solvent | DME | 4 mL | COCCOC | C4H10O2
solvent | water | 2 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 11 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | tetrakis(triphenylphosphine)palladium | 16 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(5-{9,9-Difluoro-7-[2-(1-Boc-pyrrolidin-2-yl)-3H-benzoimidazol-5-yl]-9H-fluoren-2-yl}-1H-imidazol-2-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 83 mg, yield 43% | C(C)(C)(C)OC(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=2C(C3=CC(=CC=C3C2C=C1)C1=CC2=C(N=C(N2)C2N(CCC2)C(=O)OC(C)(C)C)C=C1)(F)F | C41H44F2N6O4
